Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ITP
 
Major Surgical or Invasive Procedure:
Robotic splenectomy: ___
 
History of Present Illness:
___ w ITP treated refractory to steroid therapy and complicated 
by steroid side effects.  She requires nplate to maintain her 
platelets greater than >50k.  She is also hepatitis B positive 
and is on lamivudine therapy.  She has had difficulty losing 
weight with steroid therapy.  She denies any fevers, chills, or 
new symptoms.  Does notice feet swelling.  Since her last visit 
she has decreased her prednisone to 5mg daily.  She has not 
finished her vaccinations. She lost 10lb since her last visit.  
She also has latent TB and is being treated for it.
 
Past Medical History:
PMHx: ITP, latent TB, HBV, HTN, HLD, vitamin D deficiency

PSHx: appendectomy ___, R oophorectomy ___, laparoscopy and 
ex-lap/LOA for pelvic pain ___
 
Social History:
___
Family History:
NC
 
Physical Exam:
99.0, 80, 120/68, 20, 96%RA
Gen: NAD, A&O
CV: RRR, no MRG, normal S1/S2
Pulm: CTA b/l
Abd: nondistended, scars c/d/i, closed with dermabond, soft, 
nontender
Ext: trace BLE edema 
 
Pertinent Results:
___ 03:27PM BLOOD WBC-8.0 RBC-3.73* Hgb-10.6* Hct-34.5* 
MCV-92 MCH-28.5 MCHC-30.8* RDW-13.9 Plt ___
___ 10:30AM BLOOD WBC-6.7 RBC-3.50* Hgb-10.5* Hct-32.2* 
MCV-92 MCH-29.9 MCHC-32.5 RDW-13.8 Plt Ct-93*
___ 11:09PM BLOOD WBC-6.2 RBC-3.71* Hgb-10.7* Hct-34.6* 
MCV-93 MCH-28.9 MCHC-31.0 RDW-13.9 Plt Ct-70*
___ 12:20PM BLOOD WBC-4.4 RBC-3.86* Hgb-11.6* Hct-34.3* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-13.8 Plt Ct-69*
 
Brief Hospital Course:
Ms ___ was admitted to the hospital after her robotic 
splenectomy, which she tolerated well. She went from the PACU to 
the general surgery floor. Her CXR showed no PTX after a CVL was 
placed. She was advanced on POD 0 to clears and PCA was 
transitioned to oral pain medications. Her platelets were 
checked every six hours and remained stable (60-70). On POD1, 
the foley was removed and she voided. She was ambulating off 
oxygen, tolerated a good amount of oral intake, ate a regular 
diet, and intravenous fluids were discontinued. On POD2, the 
central line was removed. She was seen walking the hallways 
independently multiple times throughout the day. On POD3 she 
continued to do well and tylenol was discontinued because the 
patient is on isoniazid. On POD4 she was discharged to home with 
services. At time of discharge, she was tolerating a regular 
diet, ambulating independently, voiding, and her pain was 
well-controlled on oral pain medications. She had previously 
received the pneumococcal and meningococcal vaccines ___, so 
these were not required prior to discharge. She will follow-up 
with her Hematologist next week and in surgery clinic in ___ 
weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 10 mg PO TID:PRN neck pain 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Isoniazid ___ mg PO DAILY 
4. LaMIVudine 100 mg PO DAILY 
5. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 
6. Acetaminophen 1000 mg PO Q8H:PRN pain (NTE 4gm/day) 
7. chlorhexidine gluconate 4 % topical one application as 
directed; apply once a day for 2 weeks 
8. Pyridoxine 100 mg PO DAILY 

 
Discharge Medications:
1. Cyclobenzaprine 10 mg PO TID:PRN neck pain 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Isoniazid ___ mg PO DAILY 
4. LaMIVudine 100 mg PO DAILY 
5. Pyridoxine 100 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four hours as 
needed for pain Disp #*30 Tablet Refills:*0
8. Senna 8.6 mg PO BID 
9. chlorhexidine gluconate 4 % topical one application as 
directed; apply once a day for 2 weeks 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
ITP
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital after your robotic 
splenectomy. You did well after surgery and are now ready to 
complete your recovery at home. 

Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___